US07829572B2
Preparation of 2-(2-Hydroxy-phenyl)-3-phenethyl-5-phenyl-3H-pyrido[4,3-d]pyrimidin-4-one
5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one, phenylboronic acid (1.1 equiv.), palladium tetrakis(triphenylphosphine) (7 mol %) and 2N aqueous Na2CO3 (4 equiv.) were combined in dioxane (0.5 mL) and heated in a microwave for 15 minutes to 140° C. The reaction mixture was cooled to room temperature, diluted with water and extracted (3×) with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous MgSO4 and filtered. The crude products were purified on preparative TLC using 1:1 ethyl acetate:hexane. The desired product can be obtained by using the methyl ether deprotection conditions employing BCl3 and isolation conditions found in the final step of Example 1. 1H NMR (400 MHz, CDCl3) δ 8.90 (s, 1H), 8.78 (d, 1H), 7.53 (m, 2H), 7.46 (m, 3H), 7.37 (t, 1H), 7.29 (d, 1H), 7.13 (m, 3H), 6.97 (m, 2H), 6.77 (m, 2H), 4.30 (t, 2H), 2.79 (t, 2H). MS m/z 420.4 (M+H)+.

reactant | 5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | ClC1=NC=CC=2N=C(N(C(C21)=O)CCC2=CC=CC=C2)C2=C(C=CC=C2)OC | C22H18ClN3O2
reactant | phenylboronic acid | 1.1 equiv. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2N, 4 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium tetrakis(triphenylphosphine) | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 2-(2-Hydroxy-phenyl)-3-phenethyl-5-phenyl-3H-pyrido[4,3-d]pyrimidin-4-one | OC1=C(C=CC=C1)C=1N(C(C2=C(N1)C=CN=C2C2=CC=CC=C2)=O)CCC2=CC=CC=C2 | C27H21N3O2
